US04493843
A mixture of 3-(n-hexadecanamido)-4-methylbenzoic acid (6.0 g) and potassium tert-butoxide (22.0 g) was placed in a preheated Woods Metal bath (temperature range 240°-260° C.). The temperature of the bath was rapidly raised to between 290° and 305° C. and was maintained within this region for 15 minutes. The mixture was then left to cool to room temperature. Water (100 ml) was added to the mixture and the resultant suspension was treated with dilute hydrochloric acid (100 ml of strength 2N) and the mixture was extracted with diethyl ether (3×100 ml). The organic extract was washed with water (2×100 ml), dried over magnesium sulphate and was evaporated in vacuo to give a solid. The solid was recrystallised from glacial acetic acid and then toluene to give 2-(n-pentadecyl)indole-6-carboxylic acid (3.05 g), in the form of an off-white solid, m.p. 140°-142° C.

reactant | 3-(n-hexadecanamido)-4-methylbenzoic acid | 6.0 g | C(CCCCCCCCCCCCCCC)(=O)NC=1C=C(C(=O)O)C=CC1C | C24H39NO3
reactant | potassium tert-butoxide | 22.0 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | Water | 100 ml | O | H2O
product | 2-(n-pentadecyl)indole-6-carboxylic acid | 3.05 g | C(CCCCCCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C24H37NO2
